US05760216
Aminopyrine hydrochloride was prepared from the free base (Aldrich) by treatment with HCl in ether. lodosobenzene (1650 mg, 7.5 mmol, prepared according to the method of Saltzman et al., Org. Synth., 43:60-61 (1963)) was added with stirring at room temperature in portions every 30 min to a solution of octachloro-octachloro tetrasulfonato Fe(III) porphyrin (6.2 mg 3.9 μmol) in 50 ml of 80:20 H2O:CH3CN containing 678 mg (3.0 mmol) of aminopyrine. Two hr after the last addition of the oxidant, the solution was evaporated under reduced pressure at 50° C. The residue was dissolved in 20 ml of aqueous Na2CO3 solution, and the solution was extracted with CH2Cl2 (3×50 ml). The organic layer was dried over Na2CO3 and evaporated under reduced pressure. The residue was chromatographed on silica gel, eluting with 1:25 methanol:methylene chloride. Seven oxidation products were obtained from the eluate (see Scheme 2): 2,3-dimethyl-4-monomethylamino-1-phenyl-3-pyrazolin5-one (AP-1); 4-amino-2,3-dimethyl-1-phenyl-3-pyrazolin-5-one (AP-2); 4formylamino-2,3-dimethyl-1-phenyl-3-pyrazolin-5-one (AP-3); 2,3-dimethyl-4hydroxyamino-1-phenyl-3-pyrazolin-5-one (AP-4); 4-dimethylamino-3hydroxymethyl-2-methyl-1-phenyl-3-pyrazolin-5-one (AP-5); 4-dimethylamino-2,3-dimethyl-1-phenyl-3-pyrazolin-5-one-4-oxide (AP-6); and 4-dimethyl-2,3dimethyl-1-(4-hydroxyphenyl)-3-pyrazolin-5-one (AP-7), 4-formylamino-2-methyl1-phenyl-3-pyrazolin-5-one (AP-8), and 4-formylamino-3-hydroxymethyl-2methyl-1-phenyl-3-pyrazolin-5-one (AP-9).

reactant | HCl | Cl | ClH
reactant | CH3CN | 3.0 mmol, 678 mg | CC#N | C2H3N
reactant | aminopyrine | CC1=C(C(=O)N(N1C)C=2C=CC=CC2)N(C)C | C13H17N3O
reactant | 2,3-dimethyl-4-monomethylamino-1-phenyl-3-pyrazolin5-one | CN1N(C(C(=C1C)NC)=O)C1=CC=CC=C1 | C12H15N3O
reactant | 4-amino-2,3-dimethyl-1-phenyl-3-pyrazolin-5-one | NC1=C(N(N(C1=O)C1=CC=CC=C1)C)C | C11H13N3O
reactant | 4formylamino-2,3-dimethyl-1-phenyl-3-pyrazolin-5-one | C(=O)NC1=C(N(N(C1=O)C1=CC=CC=C1)C)C | C12H13N3O2
reactant | 2,3-dimethyl-4hydroxyamino-1-phenyl-3-pyrazolin-5-one | CN1N(C(C(=C1C)NO)=O)C1=CC=CC=C1 | C11H13N3O2
reactant | 4-dimethylamino-3hydroxymethyl-2-methyl-1-phenyl-3-pyrazolin-5-one | CN(C1=C(N(N(C1=O)C1=CC=CC=C1)C)CO)C | C13H17N3O2
reactant | 4-formylamino-2-methyl1-phenyl-3-pyrazolin-5-one | C(=O)NC1=CN(N(C1=O)C1=CC=CC=C1)C | C11H11N3O2
reactant | 4-formylamino-3-hydroxymethyl-2methyl-1-phenyl-3-pyrazolin-5-one | C(=O)NC1=C(N(N(C1=O)C1=CC=CC=C1)C)CO | C12H13N3O3
solvent | ether | CCOCC | C4H10O
solvent | H2O | 50 ml | O | H2O
product | Aminopyrine hydrochloride | CC1=C(C(=O)N(N1C)C2=CC=CC=C2)N(C)C.Cl | InChI=1S/C13H17N3O.ClH/c1-10-12(14(2)3)13(17)16(15(10)4)11-8-6-5-7-9-11;/h5-9H,1-4H3;1H
